US08957033B2
At −7° C., TMSCl (71 mL) was added into a solution of (3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-one (14.2 g) and N-methylmorpholine (80 mL) in dry THF (120 mL), and then the mixture was slowly warmed up to room temperature and stirred overnight. At 10° C., toluene (160 mL) and H2O (300 mL) were poured into the mixture, and then the organic phase was washed with H2O (120 mL), 1M HCl (150 mL×4) and brine (120 mL). The organic phase was dried over Na2SO4, and concentrated to obtain the crude product, then the crude product was purified by silica-gel column chromatography (PE/EA=10/1) to obtain 30 g of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one.

reactant | TMSCl | 71 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-one | 14.2 g | O[C@H]1C(O[C@@H]([C@H]([C@@H]1O)O)CO)=O | C6H10O6
reactant | N-methylmorpholine | 80 mL | CN1CCOCC1 | C5H11NO
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | H2O | 300 mL | O | H2O
product | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 30 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
